US06830828B2
Bis(2-phenylbenzothiazole) Iridium (8-hydroxyquinolate) (BTIrQ).
4.7 mmol (0.68 g) of 8-hydroxyquinoline was added to a room-temperature solution of 0.14 mmol 2-phenylbenzothiazole Iridium chloride dimer (0.19 g) in 20 mL of 2-ethoxyethanol. Approximately 700 mg of sodium carbonate was added, and the mixture was heated to reflux under nitrogen in an oil bath overnight (23 hrs.). Reaction mixture was cooled to room temperature, and the red precipitate was filtered off via vacuum. The filtrate was concentrated and methanol was added to precipitate more product. Successive filtrations and precipitations afforded a 57% yield. The emission spectrum is in FIG. 43 and the proton NMR spectrum is in FIG. 44.

reactant | 8-hydroxyquinoline | 4.7 mmol, 0.68 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | 2-phenylbenzothiazole Iridium chloride | 0.14 mmol | [Ir](Cl)(Cl)Cl.C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2
reactant | sodium carbonate | 700 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-ethoxyethanol | 20 mL | C(C)OCCO | C4H10O2
product | Bis(2-phenylbenzothiazole) Iridium (8-hydroxyquinolate) | 57% yield | OC=1C=CC=C2C=CC(=NC12)C(=O)[O-].[Ir+3].C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2.C2(=CC=CC=C2)C=2SC1=C(N2)C=CC=C1.OC=1C=CC=C2C=CC(=NC12)C(=O)[O-].OC=1C=CC=C2C=CC(=NC12)C(=O)[O-] | InChI=1S/2C13H9NS.3C10H7NO3.Ir/c2*1-2-6-10(7-3-1)13-14-11-8-4-5-9-12(11)15-13;3*12-8-3-1-2-6-4-5-7(10(13)14)11-9(6)8;/h2*1-9H;3*1-5,12H,(H,13,14);/q;;;;;+3/p-3
